US08003703B2
(i) 2-Chloro-N-(5-fluoro-2-methoxyphenyl)-4-(methylsulfonyl)aniline
A mixture of 2-bromo-4-fluoroanisole (6.0 g), 2-chloro-4-methylsulphonylaniline (9.0 g), cesium carbonate (14.7 g), palladium acetate (0.33 g) and 2-(dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1,1′-biphenyl (0.54 g) in dioxane (60 ml) was heated at 100° C. for 20 h. The mixture was cooled, and partitioned between ethylacetate/water. The organics were separated, washed with brine, dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 25% ethylacetate/isohexane. Yield 3.2 g

reactant | 2-bromo-4-fluoroanisole | 6.0 g | BrC1=C(C=CC(=C1)F)OC | C7H6BrFO
reactant | 2-chloro-4-methylsulphonylaniline | 9.0 g | ClC1=C(N)C=CC(=C1)S(=O)(=O)C | C7H8ClNO2S
reactant | cesium carbonate | 14.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(dicyclohexylphosphino)-2′,4′,6′-tri-1-propyl-1,1′-biphenyl | 0.54 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1CCC)CCC)CCC)C1CCCCC1 | C33H49P
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.33 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Chloro-N-(5-fluoro-2-methoxyphenyl)-4-(methylsulfonyl)aniline | ClC1=C(NC2=C(C=CC(=C2)F)OC)C=CC(=C1)S(=O)(=O)C | C14H13ClFNO3S
